US04156670
Deiodination of 1-methyl-3-(5-iodo-4-methyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea is accomplished by treating a methanol mixture of this compound with palladium on carbon and magnesium oxide in a Paar hydrogenator at 50 psig. After uptake of the hydrogen is completed, the mixture is filtered through diatomaceous earth and filtrate is evaporated to dryness to afford 1-methyl-3-(4-methyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, melting point 135° C. to 145° C.

reactant | 1-methyl-3-(5-iodo-4-methyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CNC(=O)NC1(C(CCC=2SC=CC21)I)C | C11H15IN2OS
reactant | magnesium oxide | [O-2].[Mg+2]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-methyl-3-(4-methyl-4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CNC(=O)NC1(CCCC=2SC=CC21)C | C11H16N2OS
